US05476751
Example F: Synthesis of (tetrahydropyran-2-yl)-triphenylacetate
10 g (35 mmol) of triphenylacetic acid are mixed with 8.8 g (104 mmol) of 3,4-dihydro-2H-pyran and 2 drops of concentrated hydrochloric acid are added to the mixture. The solution is then stirred at 70° C. for 3 hours and working up is thereafter effected in accordance with the general procedure described in Example A. Recrystallisation from n-hexane gives a product which melts at 115° C.

reactant | triphenylacetic acid | 35 mmol, 10 g | C1(=CC=CC=C1)C(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16O2
reactant | 3,4-dihydro-2H-pyran | 104 mmol, 8.8 g | O1CCCC=C1 | C5H8O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
product | (tetrahydropyran-2-yl)-triphenylacetate | O1C(CCCC1)OC(C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H24O3
